US05102877
To a solution of (2S)-4-acetyl-1-allyloxycarbonylpyrrolidine-2-carboxylic acid (23.27 g) in tetrahydrofuran (230 ml) were added in turn 1-hydroxybenzotriazole hydrate (13.7 g), dimethylamine hydrochloride (8.27 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (18.5 ml) at 0° C. After 2 hours, the reaction mixture was poured into a mixture of ethyl acetate and water, the organic layer was separated, washed twice with saturated aqueous layer hydrogen carbonate and brine in turn. The solvent was dried over magnesium sulfate and removed in vacuo. The residue was chromatographed on silica gel (600 ml) eluting with a mixture of dichloromethane and acetone (6:1→4:1) to give (2S)-4-acetyl-1-allyloxycarbonyl-2-dimethylcarbamoylpyrrolidine (11 g).

reactant | (2S)-4-acetyl-1-allyloxycarbonylpyrrolidine-2-carboxylic acid | 23.27 g | C(C)(=O)C1C[C@H](N(C1)C(=O)OCC=C)C(=O)O | C11H15NO5
reactant | 1-hydroxybenzotriazole hydrate | 13.7 g | O.ON1N=NC2=C1C=CC=C2
reactant | dimethylamine hydrochloride | 8.27 g | Cl.CNC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 18.5 ml | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-4-acetyl-1-allyloxycarbonyl-2-dimethylcarbamoylpyrrolidine | 11 g | C(C)(=O)C1C[C@H](N(C1)C(=O)OCC=C)C(N(C)C)=O | C13H20N2O4
